************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: RTLATSRX1
* View Name:     schematic
* Netlisted on:  Jun  4 07:49:10 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VDD:P
+        ExtVDD:P
+        VSS:G
+        ExtVSS:G

*.PIN VDD
*+    ExtVDD
*+    VSS
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    RTLATSRX1
* View Name:    schematic
************************************************************************

.SUBCKT RTLATSRX1 D ExtVDD G Q QN RN RT SN VDD VSS
*.PININFO D:I ExtVDD:I G:I RN:I RT:I SN:I VDD:I VSS:I Q:O QN:O
MNM3 net094 Qint VSS VSS g45n1svt m=1 l=45n w=145n
MNM2 n5g RT net094 VSS g45n1svt m=1 l=45n w=145n
MNM0 n5g RTb n5 VSS g45n1svt m=1 l=45n w=145n
Mmn45 RTb RT VSS VSS g45n1svt m=1 l=45n w=145n
Mmn5 net191 D VSS VSS g45n1svt m=1 l=45n w=145n
Mmn6 n5 Gbb net191 VSS g45n1svt m=1 l=45n w=145n
Mmn10 net183 SN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn11 Qint n5g net183 VSS g45n1svt m=1 l=45n w=145n
Mmn17 n5 Gb net171 VSS g45n1svt m=1 l=45n w=145n
Mmn16 net171 Qint net167 VSS g45n1svt m=1 l=45n w=145n
Mmn15 net167 RN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn1 Gb G net159 VSS g45n1svt m=1 l=45n w=145n
Mmn0 net159 RN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn22 QN Qint VSS VSS g45n1svt m=1 l=45n w=260n
Mmn21 Q Qbint VSS VSS g45n1svt m=1 l=45n w=260n
Mmn2 Gbb Gb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn20 Qbint Qint VSS VSS g45n1svt m=1 l=45n w=260n
MPM3 n5g RTb net94 ExtVDD g45p1svt m=1 l=45n w=215n
MPM2 net94 Qint ExtVDD ExtVDD g45p1svt m=1 l=45n w=215n
MPM0 n5g RT n5 ExtVDD g45p1svt m=1 l=45n w=215n
Mmp45 RTb RT ExtVDD ExtVDD g45p1svt m=1 l=45n w=215n
Mmp6 n5 Gb net142 VDD g45p1svt m=1 l=45n w=215n
Mmp5 net142 D VDD VDD g45p1svt m=1 l=45n w=215n
Mmp10 Qint SN ExtVDD ExtVDD g45p1svt m=1 l=45n w=215n
Mmp1 Gb G VDD VDD g45p1svt m=1 l=45n w=215n
Mmp22 QN Qint VDD VDD g45p1svt m=1 l=45n w=390n
Mmp21 Q Qbint VDD VDD g45p1svt m=1 l=45n w=390n
Mmp2 Gbb Gb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp17 n5 Gbb net103 VDD g45p1svt m=1 l=45n w=215n
Mmp16 net103 Qint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp15 net103 RN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp0 Gb RN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp20 Qbint Qint VDD VDD g45p1svt m=1 l=45n w=390n
Mmp11 Qint n5g ExtVDD ExtVDD g45p1svt m=1 l=45n w=215n
.ENDS

